* NGSPICE file created from simple_ro.ext - technology: ihp-sg13cmos5l

* Black-box entry subcircuit for sg13cmos5l_decap_8 abstract view
.subckt sg13cmos5l_decap_8 VDD VSS
.ends

* Black-box entry subcircuit for sg13cmos5l_fill_1 abstract view
.subckt sg13cmos5l_fill_1 VDD VSS
.ends

* Black-box entry subcircuit for sg13cmos5l_decap_4 abstract view
.subckt sg13cmos5l_decap_4 VDD VSS
.ends

* Black-box entry subcircuit for sg13cmos5l_inv_16 abstract view
.subckt sg13cmos5l_inv_16 Y A VDD VSS
.ends

* Black-box entry subcircuit for sg13cmos5l_fill_2 abstract view
.subckt sg13cmos5l_fill_2 VDD VSS
.ends

* Black-box entry subcircuit for sg13cmos5l_inv_1 abstract view
.subckt sg13cmos5l_inv_1 Y A VDD VSS
.ends

* Black-box entry subcircuit for sg13cmos5l_buf_1 abstract view
.subckt sg13cmos5l_buf_1 X A VDD VSS
.ends

* Black-box entry subcircuit for sg13cmos5l_and2_1 abstract view
.subckt sg13cmos5l_and2_1 X A B VDD VSS
.ends

.subckt simple_ro VGND VPWR enable osc
XFILLER_7_7 VPWR VGND sg13cmos5l_decap_8
XFILLER_3_56 VPWR VGND sg13cmos5l_decap_8
XFILLER_9_126 VPWR VGND sg13cmos5l_decap_8
XFILLER_13_111 VPWR VGND sg13cmos5l_decap_8
XFILLER_10_125 VPWR VGND sg13cmos5l_decap_8
XFILLER_12_21 VPWR VGND sg13cmos5l_decap_8
XFILLER_12_87 VPWR VGND sg13cmos5l_decap_8
XFILLER_5_140 VPWR VGND sg13cmos5l_decap_8
XFILLER_0_35 VPWR VGND sg13cmos5l_decap_8
XFILLER_9_77 VPWR VGND sg13cmos5l_decap_8
XFILLER_18_86 VPWR VGND sg13cmos5l_decap_8
XFILLER_18_42 VPWR VGND sg13cmos5l_decap_8
XFILLER_6_56 VPWR VGND sg13cmos5l_decap_8
XFILLER_15_21 VPWR VGND sg13cmos5l_decap_8
XFILLER_15_98 VPWR VGND sg13cmos5l_decap_8
XFILLER_11_0 VPWR VGND sg13cmos5l_decap_8
XFILLER_3_35 VPWR VGND sg13cmos5l_decap_8
XFILLER_9_105 VPWR VGND sg13cmos5l_decap_8
XFILLER_9_149 VPWR VGND sg13cmos5l_fill_1
XFILLER_6_119 VPWR VGND sg13cmos5l_decap_8
XFILLER_10_104 VPWR VGND sg13cmos5l_decap_8
XFILLER_12_66 VPWR VGND sg13cmos5l_decap_8
XFILLER_2_133 VPWR VGND sg13cmos5l_decap_8
XFILLER_0_14 VPWR VGND sg13cmos5l_decap_8
XFILLER_9_56 VPWR VGND sg13cmos5l_decap_8
XFILLER_18_21 VPWR VGND sg13cmos5l_decap_8
XFILLER_15_7 VPWR VGND sg13cmos5l_decap_8
XFILLER_6_35 VPWR VGND sg13cmos5l_decap_8
XFILLER_15_77 VPWR VGND sg13cmos5l_decap_8
XFILLER_13_146 VPWR VGND sg13cmos5l_decap_4
XFILLER_3_14 VPWR VGND sg13cmos5l_decap_8
XFILLER_2_112 VPWR VGND sg13cmos5l_decap_8
XFILLER_1_0 VPWR VGND sg13cmos5l_decap_8
Xgenblk1\[6\].genblk1.genblk1.inverter_inst genblk1\[7\].genblk1.genblk1.inverter_inst/A
+ genblk1\[6\].genblk1.genblk1.inverter_inst/A VPWR VGND sg13cmos5l_inv_16
XFILLER_1_91 VPWR VGND sg13cmos5l_decap_8
XFILLER_6_14 VPWR VGND sg13cmos5l_decap_8
XFILLER_15_56 VPWR VGND sg13cmos5l_decap_8
XFILLER_16_133 VPWR VGND sg13cmos5l_decap_8
XFILLER_13_125 VPWR VGND sg13cmos5l_decap_8
XFILLER_8_140 VPWR VGND sg13cmos5l_decap_8
XFILLER_5_7 VPWR VGND sg13cmos5l_decap_8
XFILLER_10_139 VPWR VGND sg13cmos5l_decap_8
XFILLER_12_35 VPWR VGND sg13cmos5l_decap_4
XFILLER_4_91 VPWR VGND sg13cmos5l_decap_8
XFILLER_0_49 VPWR VGND sg13cmos5l_decap_8
XFILLER_9_14 VPWR VGND sg13cmos5l_decap_8
XFILLER_18_56 VPWR VGND sg13cmos5l_decap_8
XFILLER_1_70 VPWR VGND sg13cmos5l_decap_8
XFILLER_10_90 VPWR VGND sg13cmos5l_decap_8
XFILLER_15_35 VPWR VGND sg13cmos5l_decap_8
XFILLER_16_112 VPWR VGND sg13cmos5l_decap_8
XFILLER_7_91 VPWR VGND sg13cmos5l_decap_8
XFILLER_13_104 VPWR VGND sg13cmos5l_decap_8
XFILLER_3_49 VPWR VGND sg13cmos5l_decap_8
XFILLER_9_119 VPWR VGND sg13cmos5l_decap_8
XFILLER_10_118 VPWR VGND sg13cmos5l_decap_8
XFILLER_12_14 VPWR VGND sg13cmos5l_decap_8
XFILLER_5_133 VPWR VGND sg13cmos5l_decap_8
XFILLER_2_147 VPWR VGND sg13cmos5l_fill_2
XFILLER_4_70 VPWR VGND sg13cmos5l_decap_8
XFILLER_0_28 VPWR VGND sg13cmos5l_decap_8
XFILLER_13_90 VPWR VGND sg13cmos5l_decap_8
XFILLER_18_79 VPWR VGND sg13cmos5l_decap_8
XFILLER_18_35 VPWR VGND sg13cmos5l_decap_8
XFILLER_6_49 VPWR VGND sg13cmos5l_decap_8
XFILLER_13_7 VPWR VGND sg13cmos5l_decap_8
XFILLER_15_14 VPWR VGND sg13cmos5l_decap_8
XFILLER_7_70 VPWR VGND sg13cmos5l_decap_8
XFILLER_3_28 VPWR VGND sg13cmos5l_decap_8
XFILLER_5_112 VPWR VGND sg13cmos5l_decap_8
XFILLER_2_126 VPWR VGND sg13cmos5l_decap_8
XFILLER_9_49 VPWR VGND sg13cmos5l_decap_8
XFILLER_18_14 VPWR VGND sg13cmos5l_decap_8
XFILLER_6_28 VPWR VGND sg13cmos5l_decap_8
XFILLER_16_147 VPWR VGND sg13cmos5l_fill_2
XFILLER_13_139 VPWR VGND sg13cmos5l_decap_8
XFILLER_16_91 VPWR VGND sg13cmos5l_decap_8
XFILLER_3_7 VPWR VGND sg13cmos5l_decap_8
XFILLER_2_149 VPWR VGND sg13cmos5l_fill_1
XFILLER_2_105 VPWR VGND sg13cmos5l_decap_8
XFILLER_9_28 VPWR VGND sg13cmos5l_fill_2
XFILLER_1_84 VPWR VGND sg13cmos5l_decap_8
XFILLER_15_49 VPWR VGND sg13cmos5l_decap_8
XFILLER_16_126 VPWR VGND sg13cmos5l_decap_8
XFILLER_13_118 VPWR VGND sg13cmos5l_decap_8
XFILLER_8_133 VPWR VGND sg13cmos5l_decap_8
XFILLER_16_70 VPWR VGND sg13cmos5l_decap_8
XFILLER_12_28 VPWR VGND sg13cmos5l_decap_8
XFILLER_5_147 VPWR VGND sg13cmos5l_fill_2
XFILLER_4_84 VPWR VGND sg13cmos5l_decap_8
XFILLER_18_49 VPWR VGND sg13cmos5l_decap_8
XFILLER_1_63 VPWR VGND sg13cmos5l_decap_8
Xgenblk1\[1\].genblk1.genblk1.inverter_inst genblk1\[2\].genblk1.genblk1.inverter_inst/A
+ genblk1\[0\].genblk1.inverter_inst/Y VPWR VGND sg13cmos5l_inv_1
XFILLER_10_83 VPWR VGND sg13cmos5l_decap_8
XFILLER_18_0 VPWR VGND sg13cmos5l_decap_8
XFILLER_16_149 VPWR VGND sg13cmos5l_fill_1
XFILLER_15_28 VPWR VGND sg13cmos5l_decap_8
XFILLER_16_105 VPWR VGND sg13cmos5l_decap_8
XFILLER_11_7 VPWR VGND sg13cmos5l_decap_8
XFILLER_7_84 VPWR VGND sg13cmos5l_decap_8
XFILLER_8_112 VPWR VGND sg13cmos5l_decap_8
XFILLER_5_126 VPWR VGND sg13cmos5l_decap_8
XFILLER_4_63 VPWR VGND sg13cmos5l_decap_8
XFILLER_1_140 VPWR VGND sg13cmos5l_decap_8
XFILLER_13_83 VPWR VGND sg13cmos5l_decap_8
XFILLER_18_28 VPWR VGND sg13cmos5l_decap_8
XFILLER_1_42 VPWR VGND sg13cmos5l_decap_8
XFILLER_10_62 VPWR VGND sg13cmos5l_decap_8
XFILLER_7_63 VPWR VGND sg13cmos5l_decap_8
XFILLER_5_105 VPWR VGND sg13cmos5l_decap_8
XFILLER_5_149 VPWR VGND sg13cmos5l_fill_1
XFILLER_4_42 VPWR VGND sg13cmos5l_decap_8
XFILLER_2_119 VPWR VGND sg13cmos5l_decap_8
XFILLER_8_0 VPWR VGND sg13cmos5l_decap_8
XFILLER_13_62 VPWR VGND sg13cmos5l_decap_8
XFILLER_1_7 VPWR VGND sg13cmos5l_decap_8
XFILLER_1_98 VPWR VGND sg13cmos5l_decap_8
XFILLER_1_21 VPWR VGND sg13cmos5l_decap_8
XFILLER_7_42 VPWR VGND sg13cmos5l_decap_8
XFILLER_15_140 VPWR VGND sg13cmos5l_decap_8
XFILLER_8_147 VPWR VGND sg13cmos5l_fill_2
XFILLER_12_143 VPWR VGND sg13cmos5l_decap_8
XFILLER_16_84 VPWR VGND sg13cmos5l_decap_8
XFILLER_4_21 VPWR VGND sg13cmos5l_decap_8
XFILLER_4_98 VPWR VGND sg13cmos5l_decap_8
XFILLER_1_77 VPWR VGND sg13cmos5l_decap_8
XFILLER_10_97 VPWR VGND sg13cmos5l_decap_8
Xgenblk1\[5\].genblk1.genblk1.inverter_inst genblk1\[6\].genblk1.genblk1.inverter_inst/A
+ genblk1\[5\].genblk1.genblk1.inverter_inst/A VPWR VGND sg13cmos5l_inv_1
XFILLER_16_119 VPWR VGND sg13cmos5l_decap_8
XFILLER_7_21 VPWR VGND sg13cmos5l_decap_8
XFILLER_7_98 VPWR VGND sg13cmos5l_decap_8
XFILLER_16_0 VPWR VGND sg13cmos5l_decap_8
XFILLER_8_126 VPWR VGND sg13cmos5l_decap_8
XFILLER_12_122 VPWR VGND sg13cmos5l_decap_8
XFILLER_16_63 VPWR VGND sg13cmos5l_decap_8
XFILLER_4_77 VPWR VGND sg13cmos5l_decap_8
XFILLER_4_140 VPWR VGND sg13cmos5l_decap_8
XFILLER_13_97 VPWR VGND sg13cmos5l_decap_8
XFILLER_1_56 VPWR VGND sg13cmos5l_decap_8
XFILLER_10_32 VPWR VGND sg13cmos5l_decap_4
XFILLER_10_76 VPWR VGND sg13cmos5l_decap_8
XFILLER_7_77 VPWR VGND sg13cmos5l_decap_8
XFILLER_8_105 VPWR VGND sg13cmos5l_decap_8
XFILLER_8_149 VPWR VGND sg13cmos5l_fill_1
XFILLER_12_101 VPWR VGND sg13cmos5l_decap_8
XFILLER_16_42 VPWR VGND sg13cmos5l_decap_8
XFILLER_5_119 VPWR VGND sg13cmos5l_decap_8
XFILLER_4_56 VPWR VGND sg13cmos5l_decap_8
XFILLER_1_133 VPWR VGND sg13cmos5l_decap_8
XFILLER_13_21 VPWR VGND sg13cmos5l_decap_8
XFILLER_13_76 VPWR VGND sg13cmos5l_decap_8
XFILLER_6_0 VPWR VGND sg13cmos5l_decap_8
XFILLER_1_35 VPWR VGND sg13cmos5l_decap_8
XFILLER_10_11 VPWR VGND sg13cmos5l_decap_8
Xinput1 _0_/A enable VPWR VGND sg13cmos5l_buf_1
XFILLER_10_55 VPWR VGND sg13cmos5l_decap_8
XFILLER_7_56 VPWR VGND sg13cmos5l_decap_8
XFILLER_16_21 VPWR VGND sg13cmos5l_decap_8
XFILLER_16_98 VPWR VGND sg13cmos5l_decap_8
XFILLER_4_35 VPWR VGND sg13cmos5l_decap_8
XFILLER_1_112 VPWR VGND sg13cmos5l_decap_8
XFILLER_13_55 VPWR VGND sg13cmos5l_decap_8
XFILLER_1_14 VPWR VGND sg13cmos5l_decap_8
XFILLER_7_35 VPWR VGND sg13cmos5l_decap_8
XFILLER_15_133 VPWR VGND sg13cmos5l_decap_8
XFILLER_12_136 VPWR VGND sg13cmos5l_decap_8
XFILLER_16_77 VPWR VGND sg13cmos5l_decap_8
XFILLER_7_140 VPWR VGND sg13cmos5l_decap_8
XFILLER_14_0 VPWR VGND sg13cmos5l_decap_8
XFILLER_4_14 VPWR VGND sg13cmos5l_decap_8
XFILLER_18_142 VPWR VGND sg13cmos5l_decap_8
XFILLER_18_7 VPWR VGND sg13cmos5l_decap_8
XFILLER_2_91 VPWR VGND sg13cmos5l_decap_8
XFILLER_7_14 VPWR VGND sg13cmos5l_decap_8
XFILLER_15_112 VPWR VGND sg13cmos5l_decap_8
XFILLER_8_119 VPWR VGND sg13cmos5l_decap_8
XFILLER_12_115 VPWR VGND sg13cmos5l_decap_8
XFILLER_16_56 VPWR VGND sg13cmos5l_decap_8
XFILLER_4_133 VPWR VGND sg13cmos5l_decap_8
XFILLER_1_147 VPWR VGND sg13cmos5l_fill_2
XFILLER_5_91 VPWR VGND sg13cmos5l_decap_8
XFILLER_1_49 VPWR VGND sg13cmos5l_decap_8
XFILLER_10_25 VPWR VGND sg13cmos5l_decap_8
XFILLER_10_69 VPWR VGND sg13cmos5l_decap_8
XFILLER_18_121 VPWR VGND sg13cmos5l_decap_8
XFILLER_4_0 VPWR VGND sg13cmos5l_decap_8
XFILLER_2_70 VPWR VGND sg13cmos5l_decap_8
XFILLER_16_35 VPWR VGND sg13cmos5l_decap_8
XFILLER_8_91 VPWR VGND sg13cmos5l_decap_8
XFILLER_4_49 VPWR VGND sg13cmos5l_decap_8
XFILLER_4_112 VPWR VGND sg13cmos5l_decap_8
XFILLER_13_14 VPWR VGND sg13cmos5l_decap_8
XFILLER_13_69 VPWR VGND sg13cmos5l_decap_8
XFILLER_1_126 VPWR VGND sg13cmos5l_decap_8
XFILLER_8_7 VPWR VGND sg13cmos5l_decap_8
XFILLER_5_70 VPWR VGND sg13cmos5l_decap_8
XFILLER_1_28 VPWR VGND sg13cmos5l_decap_8
XFILLER_18_100 VPWR VGND sg13cmos5l_decap_8
XFILLER_7_49 VPWR VGND sg13cmos5l_decap_8
XFILLER_15_147 VPWR VGND sg13cmos5l_fill_2
XFILLER_11_91 VPWR VGND sg13cmos5l_decap_8
XFILLER_16_14 VPWR VGND sg13cmos5l_decap_8
XFILLER_8_70 VPWR VGND sg13cmos5l_decap_8
XFILLER_4_28 VPWR VGND sg13cmos5l_decap_8
XFILLER_12_0 VPWR VGND sg13cmos5l_decap_8
XFILLER_1_149 VPWR VGND sg13cmos5l_fill_1
XFILLER_1_105 VPWR VGND sg13cmos5l_decap_8
XFILLER_13_48 VPWR VGND sg13cmos5l_decap_8
XFILLER_14_91 VPWR VGND sg13cmos5l_decap_8
XFILLER_15_126 VPWR VGND sg13cmos5l_decap_8
XFILLER_7_28 VPWR VGND sg13cmos5l_decap_8
XFILLER_11_70 VPWR VGND sg13cmos5l_decap_8
XFILLER_16_7 VPWR VGND sg13cmos5l_decap_8
XFILLER_12_129 VPWR VGND sg13cmos5l_decap_8
XFILLER_7_133 VPWR VGND sg13cmos5l_decap_8
XFILLER_11_140 VPWR VGND sg13cmos5l_decap_8
XFILLER_4_147 VPWR VGND sg13cmos5l_fill_2
XFILLER_17_91 VPWR VGND sg13cmos5l_decap_8
XFILLER_14_70 VPWR VGND sg13cmos5l_decap_8
XFILLER_18_135 VPWR VGND sg13cmos5l_decap_8
XFILLER_2_84 VPWR VGND sg13cmos5l_decap_8
XFILLER_15_105 VPWR VGND sg13cmos5l_decap_8
XFILLER_2_0 VPWR VGND sg13cmos5l_decap_8
Xgenblk1\[4\].genblk1.genblk1.inverter_inst genblk1\[5\].genblk1.genblk1.inverter_inst/A
+ genblk1\[4\].genblk1.genblk1.inverter_inst/A VPWR VGND sg13cmos5l_inv_16
XFILLER_15_149 VPWR VGND sg13cmos5l_fill_1
XFILLER_12_108 VPWR VGND sg13cmos5l_decap_8
XFILLER_16_49 VPWR VGND sg13cmos5l_decap_8
XFILLER_7_112 VPWR VGND sg13cmos5l_decap_8
XFILLER_4_126 VPWR VGND sg13cmos5l_decap_8
XFILLER_17_70 VPWR VGND sg13cmos5l_decap_8
XFILLER_13_28 VPWR VGND sg13cmos5l_fill_1
XFILLER_0_140 VPWR VGND sg13cmos5l_decap_8
XFILLER_5_84 VPWR VGND sg13cmos5l_decap_8
XFILLER_6_7 VPWR VGND sg13cmos5l_decap_8
XFILLER_10_18 VPWR VGND sg13cmos5l_decap_8
XFILLER_18_114 VPWR VGND sg13cmos5l_decap_8
XFILLER_2_63 VPWR VGND sg13cmos5l_decap_8
XFILLER_16_28 VPWR VGND sg13cmos5l_decap_8
XFILLER_4_105 VPWR VGND sg13cmos5l_decap_8
XFILLER_8_84 VPWR VGND sg13cmos5l_decap_8
XFILLER_4_149 VPWR VGND sg13cmos5l_fill_1
XFILLER_1_119 VPWR VGND sg13cmos5l_decap_8
XFILLER_5_63 VPWR VGND sg13cmos5l_decap_8
XFILLER_2_42 VPWR VGND sg13cmos5l_decap_8
XFILLER_11_84 VPWR VGND sg13cmos5l_decap_8
XFILLER_14_140 VPWR VGND sg13cmos5l_decap_8
XFILLER_7_147 VPWR VGND sg13cmos5l_fill_2
XFILLER_14_7 VPWR VGND sg13cmos5l_decap_8
XFILLER_8_63 VPWR VGND sg13cmos5l_decap_8
XFILLER_5_42 VPWR VGND sg13cmos5l_decap_8
XFILLER_14_84 VPWR VGND sg13cmos5l_decap_8
XFILLER_18_149 VPWR VGND sg13cmos5l_fill_1
X_0_ _0_/X _0_/A _0_/B VPWR VGND sg13cmos5l_and2_1
XFILLER_2_98 VPWR VGND sg13cmos5l_decap_8
XFILLER_2_21 VPWR VGND sg13cmos5l_decap_8
XFILLER_15_119 VPWR VGND sg13cmos5l_decap_8
XFILLER_11_63 VPWR VGND sg13cmos5l_decap_8
XFILLER_0_0 VPWR VGND sg13cmos5l_decap_8
XFILLER_7_126 VPWR VGND sg13cmos5l_decap_8
XFILLER_11_133 VPWR VGND sg13cmos5l_decap_8
Xgenblk1\[8\].genblk1.genblk1.inverter_inst _0_/B genblk1\[8\].genblk1.genblk1.inverter_inst/A
+ VPWR VGND sg13cmos5l_inv_16
XFILLER_8_42 VPWR VGND sg13cmos5l_decap_8
Xgenblk1\[0\].genblk1.inverter_inst genblk1\[0\].genblk1.inverter_inst/Y _0_/X VPWR
+ VGND sg13cmos5l_inv_16
XFILLER_17_84 VPWR VGND sg13cmos5l_decap_8
XFILLER_3_140 VPWR VGND sg13cmos5l_decap_8
XFILLER_5_21 VPWR VGND sg13cmos5l_decap_8
XFILLER_5_98 VPWR VGND sg13cmos5l_decap_8
XFILLER_14_63 VPWR VGND sg13cmos5l_decap_8
XFILLER_18_128 VPWR VGND sg13cmos5l_decap_8
XFILLER_4_7 VPWR VGND sg13cmos5l_decap_8
XFILLER_2_77 VPWR VGND sg13cmos5l_decap_8
XFILLER_7_105 VPWR VGND sg13cmos5l_decap_8
XFILLER_7_149 VPWR VGND sg13cmos5l_fill_1
XFILLER_11_112 VPWR VGND sg13cmos5l_decap_8
XFILLER_8_21 VPWR VGND sg13cmos5l_decap_8
XFILLER_8_98 VPWR VGND sg13cmos5l_decap_8
XFILLER_4_119 VPWR VGND sg13cmos5l_decap_8
XFILLER_17_63 VPWR VGND sg13cmos5l_decap_8
XFILLER_0_133 VPWR VGND sg13cmos5l_decap_8
XFILLER_5_77 VPWR VGND sg13cmos5l_decap_8
XFILLER_14_42 VPWR VGND sg13cmos5l_decap_8
XFILLER_18_107 VPWR VGND sg13cmos5l_decap_8
XFILLER_2_56 VPWR VGND sg13cmos5l_decap_8
XFILLER_17_140 VPWR VGND sg13cmos5l_decap_8
XFILLER_11_21 VPWR VGND sg13cmos5l_decap_8
XFILLER_11_98 VPWR VGND sg13cmos5l_decap_8
XFILLER_8_77 VPWR VGND sg13cmos5l_decap_8
XFILLER_17_42 VPWR VGND sg13cmos5l_decap_8
XFILLER_12_7 VPWR VGND sg13cmos5l_decap_8
XFILLER_0_112 VPWR VGND sg13cmos5l_decap_8
XFILLER_5_56 VPWR VGND sg13cmos5l_decap_8
XFILLER_10_4 VPWR VGND sg13cmos5l_decap_8
XFILLER_14_21 VPWR VGND sg13cmos5l_decap_8
XFILLER_14_98 VPWR VGND sg13cmos5l_decap_8
XFILLER_2_35 VPWR VGND sg13cmos5l_decap_8
XFILLER_11_77 VPWR VGND sg13cmos5l_decap_8
XFILLER_14_133 VPWR VGND sg13cmos5l_decap_8
XFILLER_8_56 VPWR VGND sg13cmos5l_decap_8
XFILLER_11_147 VPWR VGND sg13cmos5l_fill_2
XFILLER_6_140 VPWR VGND sg13cmos5l_decap_8
XFILLER_17_98 VPWR VGND sg13cmos5l_decap_8
XFILLER_17_21 VPWR VGND sg13cmos5l_decap_8
XFILLER_5_35 VPWR VGND sg13cmos5l_decap_8
XFILLER_14_77 VPWR VGND sg13cmos5l_decap_8
XFILLER_2_14 VPWR VGND sg13cmos5l_decap_8
XFILLER_9_0 VPWR VGND sg13cmos5l_decap_8
XFILLER_2_7 VPWR VGND sg13cmos5l_decap_8
XFILLER_14_112 VPWR VGND sg13cmos5l_decap_8
XFILLER_7_119 VPWR VGND sg13cmos5l_decap_8
XFILLER_11_126 VPWR VGND sg13cmos5l_decap_8
XFILLER_8_35 VPWR VGND sg13cmos5l_decap_8
XFILLER_17_77 VPWR VGND sg13cmos5l_decap_8
XFILLER_3_133 VPWR VGND sg13cmos5l_decap_8
XFILLER_0_91 VPWR VGND sg13cmos5l_decap_8
XFILLER_0_147 VPWR VGND sg13cmos5l_fill_2
XFILLER_5_14 VPWR VGND sg13cmos5l_decap_8
XFILLER_14_56 VPWR VGND sg13cmos5l_decap_8
XFILLER_3_91 VPWR VGND sg13cmos5l_decap_8
XFILLER_11_105 VPWR VGND sg13cmos5l_decap_8
XFILLER_11_149 VPWR VGND sg13cmos5l_fill_1
XFILLER_8_14 VPWR VGND sg13cmos5l_decap_8
Xgenblk1\[3\].genblk1.genblk1.inverter_inst genblk1\[4\].genblk1.genblk1.inverter_inst/A
+ genblk1\[3\].genblk1.genblk1.inverter_inst/A VPWR VGND sg13cmos5l_inv_1
XFILLER_17_56 VPWR VGND sg13cmos5l_decap_8
XFILLER_3_112 VPWR VGND sg13cmos5l_decap_8
XFILLER_17_0 VPWR VGND sg13cmos5l_decap_8
XFILLER_0_70 VPWR VGND sg13cmos5l_decap_8
XFILLER_0_126 VPWR VGND sg13cmos5l_decap_8
XFILLER_14_35 VPWR VGND sg13cmos5l_decap_8
XFILLER_6_91 VPWR VGND sg13cmos5l_decap_8
XFILLER_17_133 VPWR VGND sg13cmos5l_decap_8
XFILLER_2_49 VPWR VGND sg13cmos5l_decap_8
XFILLER_11_14 VPWR VGND sg13cmos5l_decap_8
XFILLER_14_147 VPWR VGND sg13cmos5l_fill_2
XFILLER_9_140 VPWR VGND sg13cmos5l_decap_8
XFILLER_3_70 VPWR VGND sg13cmos5l_decap_8
XFILLER_17_35 VPWR VGND sg13cmos5l_decap_8
XFILLER_0_149 VPWR VGND sg13cmos5l_fill_1
XFILLER_0_105 VPWR VGND sg13cmos5l_decap_8
XFILLER_9_91 VPWR VGND sg13cmos5l_decap_8
XFILLER_5_49 VPWR VGND sg13cmos5l_decap_8
XFILLER_14_14 VPWR VGND sg13cmos5l_decap_8
XFILLER_6_70 VPWR VGND sg13cmos5l_decap_8
XFILLER_17_112 VPWR VGND sg13cmos5l_decap_8
XFILLER_2_28 VPWR VGND sg13cmos5l_decap_8
XFILLER_11_37 VPWR VGND sg13cmos5l_fill_1
XFILLER_14_126 VPWR VGND sg13cmos5l_decap_8
XFILLER_7_0 VPWR VGND sg13cmos5l_decap_8
XFILLER_0_7 VPWR VGND sg13cmos5l_decap_8
XFILLER_6_133 VPWR VGND sg13cmos5l_decap_8
XFILLER_8_49 VPWR VGND sg13cmos5l_decap_8
XFILLER_12_80 VPWR VGND sg13cmos5l_decap_8
XFILLER_17_14 VPWR VGND sg13cmos5l_decap_8
XFILLER_3_147 VPWR VGND sg13cmos5l_fill_2
XFILLER_9_70 VPWR VGND sg13cmos5l_decap_8
XFILLER_5_28 VPWR VGND sg13cmos5l_decap_8
XFILLER_15_91 VPWR VGND sg13cmos5l_decap_8
XFILLER_14_105 VPWR VGND sg13cmos5l_decap_8
XFILLER_14_149 VPWR VGND sg13cmos5l_fill_1
XFILLER_11_119 VPWR VGND sg13cmos5l_decap_8
XFILLER_8_28 VPWR VGND sg13cmos5l_decap_8
XFILLER_6_112 VPWR VGND sg13cmos5l_decap_8
XFILLER_3_126 VPWR VGND sg13cmos5l_decap_8
Xgenblk1\[7\].genblk1.genblk1.inverter_inst genblk1\[8\].genblk1.genblk1.inverter_inst/A
+ genblk1\[7\].genblk1.genblk1.inverter_inst/A VPWR VGND sg13cmos5l_inv_1
XFILLER_0_84 VPWR VGND sg13cmos5l_decap_8
XFILLER_15_0 VPWR VGND sg13cmos5l_decap_8
XFILLER_14_49 VPWR VGND sg13cmos5l_decap_8
XFILLER_17_147 VPWR VGND sg13cmos5l_fill_2
XFILLER_15_70 VPWR VGND sg13cmos5l_decap_8
XFILLER_11_28 VPWR VGND sg13cmos5l_decap_4
XFILLER_3_84 VPWR VGND sg13cmos5l_decap_8
XFILLER_17_49 VPWR VGND sg13cmos5l_decap_8
XFILLER_3_149 VPWR VGND sg13cmos5l_fill_1
XFILLER_3_105 VPWR VGND sg13cmos5l_decap_8
XFILLER_0_63 VPWR VGND sg13cmos5l_decap_8
XFILLER_0_119 VPWR VGND sg13cmos5l_decap_8
XFILLER_18_70 VPWR VGND sg13cmos5l_decap_4
XFILLER_14_28 VPWR VGND sg13cmos5l_decap_8
XFILLER_6_84 VPWR VGND sg13cmos5l_decap_8
XFILLER_17_126 VPWR VGND sg13cmos5l_decap_8
Xoutput2 osc _0_/X VPWR VGND sg13cmos5l_buf_1
XFILLER_3_63 VPWR VGND sg13cmos5l_decap_8
XFILLER_9_133 VPWR VGND sg13cmos5l_decap_8
XFILLER_5_0 VPWR VGND sg13cmos5l_decap_8
XFILLER_6_147 VPWR VGND sg13cmos5l_fill_2
XFILLER_10_132 VPWR VGND sg13cmos5l_decap_8
XFILLER_12_94 VPWR VGND sg13cmos5l_decap_8
XFILLER_17_28 VPWR VGND sg13cmos5l_decap_8
XFILLER_0_42 VPWR VGND sg13cmos5l_decap_8
XFILLER_9_84 VPWR VGND sg13cmos5l_decap_8
XFILLER_18_93 VPWR VGND sg13cmos5l_decap_8
XFILLER_6_63 VPWR VGND sg13cmos5l_decap_8
XFILLER_17_149 VPWR VGND sg13cmos5l_fill_1
XFILLER_17_105 VPWR VGND sg13cmos5l_decap_8
XFILLER_9_7 VPWR VGND sg13cmos5l_decap_8
XFILLER_14_119 VPWR VGND sg13cmos5l_decap_8
XFILLER_9_112 VPWR VGND sg13cmos5l_decap_8
XFILLER_3_42 VPWR VGND sg13cmos5l_decap_8
XFILLER_6_126 VPWR VGND sg13cmos5l_decap_8
XFILLER_10_111 VPWR VGND sg13cmos5l_decap_8
XFILLER_12_73 VPWR VGND sg13cmos5l_decap_8
XFILLER_2_140 VPWR VGND sg13cmos5l_decap_8
XFILLER_0_98 VPWR VGND sg13cmos5l_decap_8
XFILLER_0_21 VPWR VGND sg13cmos5l_decap_8
XFILLER_9_63 VPWR VGND sg13cmos5l_decap_8
XFILLER_6_42 VPWR VGND sg13cmos5l_decap_8
XFILLER_13_0 VPWR VGND sg13cmos5l_decap_8
XFILLER_15_84 VPWR VGND sg13cmos5l_decap_8
XFILLER_3_98 VPWR VGND sg13cmos5l_decap_8
XFILLER_3_21 VPWR VGND sg13cmos5l_decap_8
XFILLER_6_105 VPWR VGND sg13cmos5l_decap_8
XFILLER_6_149 VPWR VGND sg13cmos5l_fill_1
XFILLER_3_119 VPWR VGND sg13cmos5l_decap_8
XFILLER_17_7 VPWR VGND sg13cmos5l_decap_8
XFILLER_0_77 VPWR VGND sg13cmos5l_decap_8
XFILLER_6_21 VPWR VGND sg13cmos5l_decap_8
XFILLER_6_98 VPWR VGND sg13cmos5l_decap_8
XFILLER_15_63 VPWR VGND sg13cmos5l_decap_8
XFILLER_16_140 VPWR VGND sg13cmos5l_decap_8
XFILLER_3_77 VPWR VGND sg13cmos5l_decap_8
XFILLER_9_147 VPWR VGND sg13cmos5l_fill_2
XFILLER_13_132 VPWR VGND sg13cmos5l_decap_8
XFILLER_10_146 VPWR VGND sg13cmos5l_decap_4
XFILLER_12_42 VPWR VGND sg13cmos5l_fill_2
XFILLER_3_0 VPWR VGND sg13cmos5l_decap_8
XFILLER_0_56 VPWR VGND sg13cmos5l_decap_8
XFILLER_9_21 VPWR VGND sg13cmos5l_decap_8
XFILLER_9_98 VPWR VGND sg13cmos5l_decap_8
Xgenblk1\[2\].genblk1.genblk1.inverter_inst genblk1\[3\].genblk1.genblk1.inverter_inst/A
+ genblk1\[2\].genblk1.genblk1.inverter_inst/A VPWR VGND sg13cmos5l_inv_16
XFILLER_18_74 VPWR VGND sg13cmos5l_fill_1
XFILLER_18_63 VPWR VGND sg13cmos5l_decap_8
XFILLER_6_77 VPWR VGND sg13cmos5l_decap_8
XFILLER_17_119 VPWR VGND sg13cmos5l_decap_8
XFILLER_15_42 VPWR VGND sg13cmos5l_decap_8
.ends

